US08492559B2
Stage 2: N,N-Dimethyl-1-(3-(methylamino)propyl)-4-phenylpiperidin-4-amine hydrochloride
HCl gas was passed through a solution of 9 g (1 eq.) tert-butyl 3-(4-(dimethylamino)-4-phenylpiperidin-1-yl)propyl(methyl)carbamate in 100 ml chloroform at 0° C. for 1 h. The reaction course was monitored by thin-layer chromatography (20% MeOH/CHCl3). Once the conversion was complete, the solvent was removed under reduced pressure and after trituration with diethyl ether 10 g (100%) of product were obtained in the form of a white solid.

reactant | HCl | Cl | ClH
reactant | tert-butyl 3-(4-(dimethylamino)-4-phenylpiperidin-1-yl)propyl(methyl)carbamate | 9 g, 1 eq. | CN(C1(CCN(CC1)CCCN(C(OC(C)(C)C)=O)C)C1=CC=CC=C1)C | C22H37N3O2
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-Dimethyl-1-(3-(methylamino)propyl)-4-phenylpiperidin-4-amine hydrochloride | Cl.CN(C1(CCN(CC1)CCCNC)C1=CC=CC=C1)C | InChI=1S/C17H29N3.ClH/c1-18-12-7-13-20-14-10-17(11-15-20,19(2)3)16-8-5-4-6-9-16;/h4-6,8-9,18H,7,10-15H2,1-3H3;1H
